2104-12-16 04:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had 3 minute episode of VT preceded by bigeminal rhythm.
   Allergies:
   Penicillins
   Unknown;
   Vaccine/Toxoid Preps
   Combo. Classifier
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.58 mcg/Kg/min
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Atropine - [**2104-12-15**] 05:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-12-16**] 03:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 70 (59 - 78) bpm
   BP: 132/58(72) {98/58(68) - 144/76(89)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    757 mL
                                                                    470 mL
   PO:
             TF:
   IVF:
                                                                    757 mL
                                                                    470 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    130 mL
   Urine:
                                                                    290 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -493 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GENERAL: Very pleasant female appearing slightly younger than stated
   age, resting comfortably in bed, in NAD, not diaphroetic. Oriented x 3.
   Mood, affect appropriate.
   HEENT: NC/AT. Sclera anicteric. PERRLA, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3. No S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Femoral 2+ Radial 2+ DP 2+ PT 2+
   Left: Femoral 2+ Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   261 K/uL
   11.5 g/dL
   112 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   13 mg/dL
   105 mEq/L
   137 mEq/L
   32.6 %
   8.6 K/uL
        [image002.jpg]
                            [**2104-12-15**]  06:28 PM
                            [**2104-12-16**]  12:30 AM
   WBC
   7.4
   8.6
   Hct
   33.7
   32.6
   Plt
   252
   261
   Cr
   0.8
   TropT
   1.75
   Glucose
   112
   Other labs: CK / CKMB / Troponin-T:306/22/1.75, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Patient is a 79 year old female with past medical history of
   hypertension and depression who presented with several days of chest
   pain, found to have a NSTEMI, and now s/p cath with 3VD, transferred to
   CCU for closer monitoring and BP control.
   .
   # Chest pain/CORONARIES: Now s/p cath which revealed 3VD. Will likely
   need bypass surgery. Nitro gtt if needed for further chest pain.
   - continue to cycle cardiac enzymes
   - CT surgery c/s to evaluate for need for bypass
   - continue ASA, hold plavix given need for upcoming bypass surgery,
   beta-blocker, integrillin drip until the AM, statin
   - Titrate nitroglycerin drip to pain free and adequate BP control
   - serial EKGs
   .
   # PUMP:
   - continue BB and [**Last Name (un) 284**], TTE in AM to assess EF
   .
   # RHYTHM: Mostly sinus but one episode of VT lasting 3min.  VT likely
   reactive to ongoing ischemia.
   - If VT returns, would consider lidocaine if stable BP.  Cardiovert of
   hypotension
   - Continue to monitor on telemetry
   .
   # Depression: Continue Wellbutrin.
   - consider social work c/s if needed
   .
   # Hypertension: Patient has history of hypertension, per report has
   been quite labile, also likely [**2-23**] cardiac dysfunction. Renal U/S was
   negative for renal artery stenosis.
   - Continue diovan and BB
   - nitro gtt as needed, goal SBP 120 to 150 and DBP > 60 for adequate
   coronary perfusion
   .
   # Epistaxis - One episode which resolved. OK to restart integrillin. If
   further bleeding, will c/s ENT.
   .
   # FEN: cardiac healthy diet
   .
   # ACCESS: PIV's, sheath to be pulled by interventional fellow
   .
   # PROPHYLAXIS:
   .
   # CODE: Full
   .
   # DISPO: CCU ON, likely c/o to [**Hospital Ward Name 408**] 3 to [**Hospital1 2266**] today
   .
   # Communication: Daughter [**Name (NI) **], H ([**Telephone/Fax (1) 2409**], C ([**Telephone/Fax (1) 2410**],
   other daughter [**Name (NI) 2403**] [**Telephone/Fax (1) 2411**]
           1. IV access: Peripheral line Order date: [**12-15**] @ 1737
   11. Heparin 5000 UNIT SC TID  Order date: [**12-16**] @ 0101
   2. IV access: Peripheral line Order date: [**12-15**] @ 1737
   12. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-15**] @ 1713
   3. 40 mEq KCL/1000 mL 1/2 NS
   Continuous at 100 ml/hr for 600 ml Order date: [**12-15**] @ 2110
   13. Metoprolol Tartrate 25 mg PO BID
   Hold for SBP < 120, HR <55  Order date: [**12-15**] @ [**2101**]
   4. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**12-15**] @ 1737
   14. Nitroglycerin 0.05-0.8 mcg/kg/min IV DRIP TITRATE TO SBP between
   120 and 150 and keep DBP > 60  Order date: [**12-15**] @ 2247
   5. Aspirin 325 mg PO DAILY  Order date: [**12-15**] @ 1737
   15. Pantoprazole 40 mg PO Q24H  Order date: [**12-15**] @ 1737
   6. Atorvastatin 80 mg PO DAILY  Order date: [**12-15**] @ 1737
   16. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**12-14**] @
   0348
   7. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 11**] repeat up to 2 mg total (including Atropine during procedure)
   Order date: [**12-15**] @ 1737
   17. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-15**] @ 1737
   8. BuPROPion 75 mg PO BID  Order date: [**12-15**] @ 1737
   18. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-15**] @ 1737
   9. Docusate Sodium 100 mg PO BID:PRN  Order date: [**12-15**] @ 1737
   19. Valsartan 160 mg PO DAILY
   hold for SBP < 120   Order date: [**12-15**] @ [**2101**]
   10. Eptifibatide 2 mcg/kg/min IV DRIP INFUSION Duration: 18 Hours Order
   date: [**12-15**] @ [**2111**]

2104-12-17 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 79 year old female with past medical
   history of hypertension and depression who presented with several days
   of chest pain, found to have a NSTEMI, and now s/p cath with 3VD,
   transferred to CCU for closer monitoring and BP control
   24 Hour Events:
   Several runs of self terminated, asymptomatic slow VT. No EKG obtained.
   ECHO - The left atrium is elongated. There is symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   normal (LVEF>55%). Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). Transmitral Doppler and
   tissue velocity imaging are consistent with Grade I (mild) LV diastolic
   dysfunction. There is no left ventricular outflow obstruction at rest
   or with Valsalva. The aortic valve leaflets are mildly thickened. There
   is no aortic valve stenosis. Trace aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Physiologic mitral
   regurgitation is seen (within normal limits). The left ventricular
   inflow pattern suggests impaired relaxation. The pulmonary artery
   systolic pressure could not be determined. There is a
   trivial/physiologic pericardial effusion.
   Allergies:
   Penicillins
   Unknown;
   Vaccine/Toxoid Preps
   Combo. Classifier
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-12-16**] 04:00 PM
   Other medications:
   Flowsheet Data as of  [**2104-12-17**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 68 (64 - 78) bpm
   BP: 142/62(82) {105/51(63) - 174/77(97)} mmHg
   RR: 10 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,502 mL
                                                                    102 mL
   PO:
                                                                    530 mL
             TF:
   IVF:
                                                                    972 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    430 mL
   Urine:
                                                                    870 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    632 mL
                                                                   -328 mL
   Physical Examination
   GENERAL: NAD.
   HEENT: MMM
   NECK: No JVD.
   CARDIAC: PMI not dislocated. RR, normal S1, S2. No m/r/g. No thrills,
   lifts. No S3. No S4.
   LUNGS: Resp were unlabored, CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or masses. Positive BS.
   EXTREMITIES: No c/c/e. Warm well perfused.
   Labs / Radiology
   272 K/uL
   11.9 g/dL
   97 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   33.4 %
   7.3 K/uL
        [image002.jpg]
                            [**2104-12-15**]  06:28 PM
                            [**2104-12-16**]  12:30 AM
                            [**2104-12-16**]  06:54 AM
                            [**2104-12-16**]  07:00 PM
                            [**2104-12-17**]  03:11 AM
   WBC
   7.4
   8.6
   8.2
   7.3
   Hct
   33.7
   32.6
   32.5
   33.4
   Plt
   [**Telephone/Fax (3) 2433**]72
   Cr
   0.8
   0.8
   0.9
   TropT
   1.75
   1.58
   1.64
   Glucose
   112
   92
   97
   Other labs: PT / PTT / INR:13.5/30.4/1.2, CK / CKMB /
   Troponin-T:201/9/1.64, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Patient is a 79 year old female with past medical history of
   hypertension and depression who presented with several days of chest
   pain, found to have a NSTEMI, and now s/p cath with 3VD, transferred to
   CCU for closer monitoring and BP control.
   .
   # Chest pain/CORONARIES: Now s/p cath which revealed 3VD. Plan for CABG
   in the AM.
   - Stopping integrillin at 3:30am. Off hep drip. Not requiring nitro
   drip for BP or pain.
   - cardiac enzymes trending down
   - continue ASA, no need for plavix esp with [**Doctor First Name **], beta-blocker, statin
   - serial daily EKGs
   - preop studies: CXR (unread), carotid US (unread) and UA (dirty,
   pending UCx, started on Abx)
   - NPO after midnight, to SICU after
   .
   # PUMP:
   - continue BB and [**Last Name (un) 284**]
   - ECHO with EF>55%, LVH, grade 1 diastolic dysfunction.
   .
   # RHYTHM: Sinus with episodes (~30sec) of asymptomatic, nonsustained,
   slow ventricular tachycardia not thought to be reperfusion since comes
   on and off.
   - Continue BB to prevent ectopy
   - Plan for Lidocaine is sustained.
   - Continue to monitor on telemetry
   .
   # Depression: Continue Wellbutrin.
   - consider social work c/s if needed
   .
   # Labile Hypertension: Received 5mg IV Lopressor in ED with SBP drop
   from 200 to 70.
   - Likely etiologyRenal U/S was negative for renal artery stenosis.
   - Continue diovan and BB
   .
   # Epistaxis - One episode which resolved.
   - Continued on integrillin given no reperfusion.
   .
   # FEN: cardiac healthy diet, NPO after MN, no IVF, lytes prn
   # ACCESS: PIV's
   # PROPHYLAXIS: PPI, Integrillin, Hep SC
   # CODE: Full
   # DISPO: CCU until CABG, then SICU
   # Communication: Daughter [**Name (NI) **], H ([**Telephone/Fax (1) 2409**], C ([**Telephone/Fax (1) 2410**],
   other daughter [**Name (NI) 2403**] [**Telephone/Fax (1) 2411**]
                    Active Medications [**Known lastname 2434**],[**Known firstname **] F.
                     1. Metoprolol Tartrate 25 mg PO TID
   5. Acetaminophen 325-650 mg PO Q6H:PRN
   2. Aspirin 325 mg PO DAILY
   6. Pantoprazole 40 mg PO Q24H
   3. Atorvastatin 80 mg PO DAILY  Order date: [**12-15**] @ 1737
   7. BuPROPion 75 mg PO BID
   4. Valsartan 160 mg PO DAILY
   8. Docusate Sodium 100 mg PO BID:PRN